US07427632B2
1-Phenyl-4-(pyridin-4-yl)butylamine
Using deprotection method A under 4.1 bar (60 psig) of hydrogen, 1-phenyl-4-(pyridin-4-yl)butan-1-one oxime (1.6 g, 6.5 mmol) afforded 1.3 g (87%) of the title compound.

reactant | hydrogen | [H][H] | H2
reactant | 1-phenyl-4-(pyridin-4-yl)butan-1-one oxime | 6.5 mmol, 1.6 g | C1(=CC=CC=C1)C(CCCC1=CC=NC=C1)=NO | C15H16N2O
product | 1-Phenyl-4-(pyridin-4-yl)butylamine | 1.3 g, 87% | C1(=CC=CC=C1)C(CCCC1=CC=NC=C1)N | C15H18N2
